US04780477
To a solution of 5.00 g of N-isopropylbenzylamine and 3.74 g of triethylamine in 60 ml of dry dichloromethane was added dropwise 3.84 g of chloroacetyl chloride with stirring under ice-cooling. The mixture was heated under reflux for 2 hours. After cooling, the reaction mixture was successively washed with water, a 10% hydrochloric acid and an aqueous sodium bicarbonate solution, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to obtain 7.67 g of N-benzyl-2-chloro-N-isopropylacetamide in an oil.

reactant | N-isopropylbenzylamine | 5.00 g | C(C)(C)NCC1=CC=CC=C1 | C10H15N
reactant | triethylamine | 3.74 g | C(C)N(CC)CC | C6H15N
reactant | chloroacetyl chloride | 3.84 g | ClCC(=O)Cl | C2H2Cl2O
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | N-benzyl-2-chloro-N-isopropylacetamide | 7.67 g | C(C1=CC=CC=C1)N(C(CCl)=O)C(C)C | C12H16ClNO
